US09107916B2
A. (1E)-1-(dimethylamino)hept-1-en-3-one
A solution of 2-hexanone (2.0 g, 20 mmol) and DMF-DMA (2.4 g, 20 mmol) in DMF (10 mL) was stirred at 100° C. overnight. The reaction mixture was cooled, concentrated, and purified by flash column chromatography (PE/EtOAc=4:1-2:1) to give the title compound (0.6 g, 19%) as yellow oil.

reactant | 2-hexanone | 20 mmol, 2.0 g | CC(CCCC)=O | C6H12O
reactant | DMF-DMA | 20 mmol, 2.4 g | CN(C)C(OC)OC | C5H13NO2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (1E)-1-(dimethylamino)hept-1-en-3-one | 0.6 g, 19% | CN(\C=C\C(CCCC)=O)C | C9H17NO
